US06448397B1
[(2-{[(1R)-1-Phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl]oxy}ethyl)amino]ethanol
To a mixture of 2-chloroethyl (1R)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl ether in DMF (20 mL) is added sodium iodide (1.0 g, 6.7 mmol), potassium carbonate (2.0 g, 14.5 mmol), and ethanolamine (0.42 mL, 7.0 mmol). The mixture is heated to 85° C. for 18 h. The mixture then is partitioned between water and CH2Cl2. The layers are separated and the organic layer washed twice with water (200 mL). The organic layer is dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography with silica gel (60 mL) using CH3OH/CH2Cl2 (2/98) and then rechromatographed with CH3OH/CH2Cl2/NH4OH (4/96/0.1) gave 0.62 g (24%) of the title compound.

reactant | 2-chloroethyl (1R)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl ether | C1(=CC=CC=C1)[C@@H]1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCCl | C22H18ClNO2
reactant | sodium iodide | 6.7 mmol, 1.0 g | [I-].[Na+]
reactant | potassium carbonate | 14.5 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanolamine | 7.0 mmol, 0.42 mL | C(O)CN | C2H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | [(2-{[(1R)-1-Phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl]oxy}ethyl)amino]ethanol | 0.62 g, 24% | C1(=CC=CC=C1)[C@@H]1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCNC(C)O | C24H24N2O3
